US03998808
A solution of 2,5-dimethylpyrrolidine (15 grams; 0.15 mol) and triethylamine (15 grams) in benzene (150 ml) was charged into a 250 ml glass reaction flask equipped with stirrer, reflux condenser and addition funnel. Chloroacetyl chloride (18 grams; 0.15 mol) was then slowly added, with vigorous stirring, over a period of several minutes. After the addition was completed stirring was continued for about 15 minutes. After this time the reaction mixture was filtered to remove the triethylamine hydrochloride which had formed. The filtered reaction mixture was then stripped of benzene under reduced pressure to yield a dark colored oil. The oil was distilled under vacuum to yield 1-(α-chloroacetyl)-2,5-dimethylpyrrolidine as a colorless oil having a boiling point of 89° to 90° C. at 0.1 mm of mercury pressure, and a refractive index at 25° C. of 1.4863.

reactant | 2,5-dimethylpyrrolidine | 0.15 mol, 15 grams | CC1NC(CC1)C | C6H13N
reactant | triethylamine | 15 grams | C(C)N(CC)CC | C6H15N
reactant | Chloroacetyl chloride | 0.15 mol, 18 grams | ClCC(=O)Cl | C2H2Cl2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(α-chloroacetyl)-2,5-dimethylpyrrolidine | ClCC(=O)N1C(CCC1C)C | C8H14ClNO
